US04052095
The RFL solution is produced by mixing together at room temperature the resorcinol, formaldehyde solution, sodium hydroxide and water to produce the resorcinol-formaldehyde component, separately mixing the Gen-Tac latex and the Pliolite Latex No. 2108, also at room temperature, to produce a latex mix and mixing the two pre-mixes together at room temperature. After mixing is completed the RFL product is aged 24 hours before use and is normally then employed to pre-coat the polyester web within a period of 7 days after manufacture, preferably within 1 or 2 days. During storage before use it is maintained at about room temperature, protected from undue heat and freezing.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | resorcinol-formaldehyde | C1(O)=C(C(O)=CC=C1)C=O | C7H6O3
